US08232403B2
4-(2-benzyloxyethyl)cyclohexanone (133.0 g, 0.57 mol) is dissolved in ethanol (1200 mL), and then triethylorthoformate (296 mL) and p-toluenesulfonic acid monohydrate (10.9 g, 0.057 mol) are added. The resulting mixture is stirred and refluxed for 2 hours. After addition of triethylamine (8.8 mL, 0.063 mol) at room temperature, the mixture is concentrated. After addition of sat. NaHCO3 aq. (500 mL), the resulting mixture is extracted with EtOAc (1000 mL). The water layer is extracted with EtOAc (1000 mL×2) and the combined organic layer is washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The crude mixture is purified by short pad silica gel column chromatography to afford [2-(4,4-diethoxycyclohexyl)ethoxymethyl]benzene as a pale yellow oil.

reactant | 4-(2-benzyloxyethyl)cyclohexanone | 0.57 mol, 133.0 g | C(C1=CC=CC=C1)OCCC1CCC(CC1)=O | C15H20O2
reactant | triethylorthoformate | 296 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid monohydrate | 0.057 mol, 10.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | triethylamine | 0.063 mol, 8.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1200 mL | C(C)O | C2H6O
product | [2-(4,4-diethoxycyclohexyl)ethoxymethyl]benzene | C(C)OC1(CCC(CC1)CCOCC1=CC=CC=C1)OCC | C19H30O3
